US09334267B2
1-(4-Bromo-2-fluoro-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(3,3-dimethylbutyl)urea
Treat a solution of 3,3-dimethylbutan-1-amine (0.080 g, 0.790 mmol) and prop-1-en-2-yl (4-bromo-2-fluoro-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)carbamate (0.244 g, 0.527 mmol) in dioxane (5 mL) with 1-methylpyrrolidine (4.48 mg, 0.053 mmol), heat at 65° C. for 3 h, then cool to RT overnight. Collect the resulting solid via filtration; concentrate the filtrate to dryness and purify via silica gel chromatography (10-30% EtOAc/DCM). Combine the two solids to afford the title compound (260 mg, 97% yield). MS (m/z): 506.1/508.1 (M+1).

reactant | 3,3-dimethylbutan-1-amine | 0.790 mmol, 0.080 g | CC(CCN)(C)C | C6H15N
reactant | prop-1-en-2-yl (4-bromo-2-fluoro-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)carbamate | 0.527 mmol, 0.244 g | BrC1=CC(=C(C=C1C1=CC2=C(N=C(N=C2)SC)N=C1C)NC(OC(=C)C)=O)F | C19H16BrFN4O2S
reactant | 1-methylpyrrolidine | 0.053 mmol, 4.48 mg | CN1CCCC1 | C5H11N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Bromo-2-fluoro-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(3,3-dimethylbutyl)urea | 260 mg, 97% yield | BrC1=CC(=C(C=C1C1=CC2=C(N=C(N=C2)SC)N=C1C)NC(=O)NCCC(C)(C)C)F | C22H25BrFN5OS
